US09085527B2
tert-Butyl 2-(2-(2-aminoethyl)disulfanyl)ethylcarbamate (500 mg, 1.98 mmol) was taken up in CH2Cl2 (20 mL) along with salicylic acid (273 mg, 1.98 mmol) and EDCI (693 mmol, 2.2 mmol). The resulting reaction mixture was stirred at room temperature for 18 h. It was then diluted with CH2Cl2, washed with saturated aqueous NaHCO3, brine, dried over Na2SO4 and concentrated under reduced pressure. Purification by chromatography (40% EtOAc, 60% pentane) afforded tert-butyl 2-(2-(2-(2-hydroxybenzamido)ethyl)disulfanyl)ethylcarbamate (400 mg, 54%). Mass calculated for C16H24N2O4S2: 372.12; found: [M+H]+=373.

reactant | tert-Butyl 2-(2-(2-aminoethyl)disulfanyl)ethylcarbamate | 1.98 mmol, 500 mg | NCCSSCCNC(OC(C)(C)C)=O | C9H20N2O2S2
reactant | salicylic acid | 1.98 mmol, 273 mg | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | EDCI | 693 mmol | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(2-(2-(2-hydroxybenzamido)ethyl)disulfanyl)ethylcarbamate | 400 mg, 54% | OC1=C(C(=O)NCCSSCCNC(OC(C)(C)C)=O)C=CC=C1 | C16H24N2O4S2
